US04117130
Preparation of 6-(p-bromophenyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 3.76 g. of 3-(p-bromophenyl)-6-chloropyridazine, 1.80 g. of formylhydrazine and 50 ml. of butyl alcohol is heated to reflux and allowed to reflux overnight. The reaction mixture is allowed to cool and the precipitated product is washed with water, air dried and recrystallized from methyl alcohol, m.p. 209°-211° C.

reactant | 3-(p-bromophenyl)-6-chloropyridazine | BrC1=CC=C(C=C1)C=1N=NC(=CC1)Cl | C10H6BrClN2
reactant | formylhydrazine | C(=O)NN | CH4N2O
solvent | butyl alcohol | C(CCC)O | C4H10O
product | 6-(p-bromophenyl)-1,2,4-triazolo[4,3-b]pyridazine | BrC1=CC=C(C=C1)C=1C=CC=2N(N1)C=NN2 | C11H7BrN4
